US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-thiazol-2-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.42 mmol) and 1-methyl-1-(5-methyl-thiazol-2-yl)-ethylamine (100 mg, 0.64 mmol) as starting materials and isolated (29 mg, 18.3%) as white solid; LC-MS (UV peak area, ESI) 94.85%, 372.8 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.42 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 1-methyl-1-(5-methyl-thiazol-2-yl)-ethylamine | 0.64 mmol, 100 mg | CC(C)(C=1SC(=CN1)C)N | C7H12N2S
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-thiazol-2-yl)-ethyl]-amide | CC(C)(C=1SC(=CN1)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H24N4O2S
